US05719155
Water (9 ml) and N,N'-dimethylethylenediamine (0.8 ml, 7.7 mmol) were added to 6-amino-4,5-dichloro-2-methyl-3(2H)-pyridazinone (500 mg, 2.6 mmol) as described in Chemical Pharmaceutical Bulletin, 30, 832 (1982), and the mixture was refluxed under heating for 3 hours. The reaction mixture was concentrated, added with chloroform, washed with water and brine and dried over anhydrous sodium sulfate. The solvent was distilled away and the residue obtained was subjected to silica gel column chromatography (chloroform:methanol=40:1) to give 448 mg of 8-amino-1,2,3,4-tetrahydro-1,4,6-trimethylpyrazino[2,3-d]pyridazin-5(6H)-one.

reactant | Water | 9 ml | O | H2O
reactant | N,N'-dimethylethylenediamine | 7.7 mmol, 0.8 ml | CNCCNC | C4H12N2
reactant | 6-amino-4,5-dichloro-2-methyl-3(2H)-pyridazinone | 2.6 mmol, 500 mg | NC=1C(=C(C(N(N1)C)=O)Cl)Cl | C5H5Cl2N3O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | 8-amino-1,2,3,4-tetrahydro-1,4,6-trimethylpyrazino[2,3-d]pyridazin-5(6H)-one | 448 mg | NC1=NN(C(C2=C1N(CCN2C)C)=O)C | C9H15N5O
